US06562978B1
1-tert-Butoxycarbonyl-4-(1-methyl-1H-tetrazol-5-ylthio)piperidine
To a solution of 1-tert-butoxycarbonyl-4-hydroxypiperidine (1.01 g, 5.0 mmol) in dry THF (30 mL) were added triphenylphosphine (2.0 g, 7.5 mmol) and 5-mercapto-1-methyl-1H-tetrazole (0.70 g, 6.0 mmol). To the mixture was added diisopropyl azodicarboxylate (1.2 mL, 6.0 mmol) under ice cooling, and the mixture was stirred at the same temperature for 1 hour. The reaction mixture was diluted with ethyl acetate (100 mL), which was washed with water, saturated aqueous solution of sodium hydrogen carbonate and saturated aqueous solution of sodium chloride, successively. The solvent was dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (50 g, diethyl ether-hexane 1:1) to give the titled compound as a colorless oily substance. (1.11 g, 74%).

reactant | 1-tert-butoxycarbonyl-4-hydroxypiperidine | 5.0 mmol, 1.01 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | triphenylphosphine | 7.5 mmol, 2.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 5-mercapto-1-methyl-1H-tetrazole | 6.0 mmol, 0.70 g | SC1=NN=NN1C | C2H4N4S
reactant | diisopropyl azodicarboxylate | 6.0 mmol, 1.2 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 1-tert-Butoxycarbonyl-4-(1-methyl-1H-tetrazol-5-ylthio)piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)SC1=NN=NN1C | C12H21N5O2S
